* SpiceNetList
* 
* Exported from decodificador.sch at 25/11/2020 21:43
* 
* EAGLE Version 9.5.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
X_X5 B B/ INV 
X_X10 A SG BUFFER 
X_X8 SA SD BUFFER 
X_X6 P SB BUFFER 
X_X4 A B P N DRIVERD4_1 
X_X7 A/ B SC OR2 
X_X9 B/ SE BUFFER 
X_X1 A B/ SA OR2 
X_X2 A/ B/ SF AND2 
X_X3 A A/ INV 

X_D1 A DIG_A DTOAB1
X_D2 B DIG_B DTOAB1
X_D3 SA DIG_SA DTOAB1
X_D4 SB DIG_SB DTOAB1
X_D5 SC DIG_SC DTOAB1
X_D6 SD DIG_SD DTOAB1
X_D7 SE DIG_SE DTOAB1
X_D8 SF DIG_SF DTOAB1
X_D9 SG DIG_SG DTOAB1
* --------- models ---------

* model file: Base: C:/Users/Administrador/Documents/EAGLE/projects/eagle-projects/Decodificador-2-bits-DSP7Seg/DRIVERD4.mdl, DRIVERD4_1

**********************
* autodesk eagle - spice model file
**********************
.SUBCKT DRIVERD4_1 n1 n2 n3 n4
a_source [n1 n2 n3 n4] d_source4
.model d_source4 d_source (input_file="C:/Users/Administrador/Documents/EAGLE/projects/eagle-projects/Decodificador-2-bits-DSP7Seg/driverd4_1.dsource.txt")
.ENDS DRIVERD4_1


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT INV IN OUT
a1 IN OUT inv1
.model inv1 d_inverter(rise_delay = 1n fall_delay = 1n)
.ENDS INV


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT OR2 A B OUT
a1 [A B] OUT or2
.model or2 d_or(rise_delay = 1n fall_delay = 1n)
.ENDS OR2


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT BUFFER IN OUT
a1 IN OUT dbuf
.model dbuf d_buffer (rise_delay = 1e-9 fall_delay = 1e-9 input_load = 0.5e-12)
.ENDS BUFFER


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT AND2 A B OUT
a1 [A B] OUT and2
.model and2 d_and(rise_delay = 1n fall_delay = 1n)
.ENDS AND2


**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT DTOAB1 D A
abridge [D] [A] dac_buff
 .model dac_buff dac_bridge(out_low = 0.3 out_high = 2.5)
.ENDS DTOAB1

* --------- simulation ---------


.control
set filetype=ascii
TRAN 0.02 4 0 0.02 
write decodificador.sch.sim V(DIG_A) V(DIG_B) V(DIG_SA) V(DIG_SB) V(DIG_SC) V(DIG_SD) V(DIG_SE) V(DIG_SF) V(DIG_SG)
.endc

.END










