* SpiceNetList
* 
* Exported from decodificador.sch at 25/11/2020 21:43
* 
* EAGLE Version 9.5.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
X_X5 B B/ INV 
X_X10 A SG BUFFER 
X_X8 SA SD BUFFER 
X_X6 P SB BUFFER 
X_X4 A B P N DRIVERD4_1 
X_X7 A/ B SC OR2 
X_X9 B/ SE BUFFER 
X_X1 A B/ SA OR2 
X_X2 A/ B/ SF AND2 
X_X3 A A/ INV 

* --------- models ---------

* model file: Base: C:/Users/Administrador/Documents/EAGLE/projects/eagle-projects/Decodificador-2-bits-DSP7Seg/DRIVERD4.mdl, DRIVERD4_1

**********************
* autodesk eagle - spice model file
**********************
.SUBCKT DRIVERD4_1 n1 n2 n3 n4
a_source [n1 n2 n3 n4] d_source4
.model d_source4 d_source (input_file="C:/Users/Administrador/Documents/EAGLE/projects/eagle-projects/Decodificador-2-bits-DSP7Seg/driverd4_1.dsource.txt")
.ENDS DRIVERD4_1


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT INV IN OUT
a1 IN OUT inv1
.model inv1 d_inverter(rise_delay = 1n fall_delay = 1n)
.ENDS INV


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT OR2 A B OUT
a1 [A B] OUT or2
.model or2 d_or(rise_delay = 1n fall_delay = 1n)
.ENDS OR2


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT BUFFER IN OUT
a1 IN OUT dbuf
.model dbuf d_buffer (rise_delay = 1e-9 fall_delay = 1e-9 input_load = 0.5e-12)
.ENDS BUFFER


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT AND2 A B OUT
a1 [A B] OUT and2
.model and2 d_and(rise_delay = 1n fall_delay = 1n)
.ENDS AND2


* --------- simulation ---------
.print DC DIG(A) DIG(B) DIG(SA) DIG(SB) DIG(SC) DIG(SD) DIG(SE) DIG(SF) DIG(SG)
.print AC DIG(A) DIG(B) DIG(SA) DIG(SB) DIG(SC) DIG(SD) DIG(SE) DIG(SF) DIG(SG)
.print TRAN DIG(A) DIG(B) DIG(SA) DIG(SB) DIG(SC) DIG(SD) DIG(SE) DIG(SF) DIG(SG)
.END










