* SpiceNetList
* 
* Exported from testes_portas_logicas.sch at 27/11/2020 20:48
* 
* EAGLE Version 9.5.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
X_X7 A B XOR XOR2 
X_X8 A B N_3 XOR2 
X_X9 N_3 XNOR INV 
X_X1 A B POS NEG DRIVERD4_1 
X_X3 POS NOT INV 
X_X6 A B NAND NAND 
X_X2 A B AND AND2 
X_X5 A B NOR NOR 
X_X4 A B OR OR2 

X_D1 A DIG_A DTOAB1
X_D2 B DIG_B DTOAB1
X_D3 AND DIG_AND DTOAB1
* --------- models ---------

* model file: Base: C:/Users/Administrador/Documents/EAGLE/projects/eagle-projects/Portas Lógicas/DRIVERD4.mdl, DRIVERD4_1

**********************
* autodesk eagle - spice model file
**********************
.SUBCKT DRIVERD4_1 n1 n2 n3 n4
a_source [n1 n2 n3 n4] d_source4
.model d_source4 d_source (input_file="C:/Users/Administrador/Documents/EAGLE/projects/eagle-projects/Portas Lógicas/driverd4_1.dsource.txt")
.ENDS DRIVERD4_1


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT AND2 A B OUT
a1 [A B] OUT and2
.model and2 d_and(rise_delay = 1n fall_delay = 1n)
.ENDS AND2


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT XOR2 A B OUT
a1 [A B] OUT xor2
.model xor2 d_xor(rise_delay = 1n fall_delay = 1n)
.ENDS XOR2


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT OR2 A B OUT
a1 [A B] OUT or2
.model or2 d_or(rise_delay = 1n fall_delay = 1n)
.ENDS OR2


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT NOR A B OUT
a1 [A B] OUT nor
.model nor d_nor(rise_delay = 1n fall_delay = 1n)
.ENDS NOR


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT NAND A B OUT
a1 [A B] OUT nand
.model nand d_nand(rise_delay = 1n fall_delay = 1n)
.ENDS NAND


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT INV IN OUT
a1 IN OUT inv1
.model inv1 d_inverter(rise_delay = 1n fall_delay = 1n)
.ENDS INV


**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT DTOAB1 D A
abridge [D] [A] dac_buff
 .model dac_buff dac_bridge(out_low = 0.3 out_high = 2.5)
.ENDS DTOAB1

* --------- simulation ---------


.control
set filetype=ascii
TRAN 0.02 4 0 0.02 
write testes_portas_logicas.sch.sim V(DIG_A) V(DIG_B) V(DIG_AND)
.endc

.END










